US06849635B2
4,5-Dimethoxy-biphenyl-2-sulfonic acid [4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-amide
2-Bromo-4,5-dimethoxybenzenesulfonyl chloride To a cooled (0° C.) solution of 4-bromoveratrole (15 mL, 100 mmol) in dichloromethane (100 mL) was added dropwise chlorosufonic acid (26 mL, 400 mmol). The reaction was allowed to slowly warm to ambient temperature and maintained for 3 hours, at which time it was concentrated and diluted with ether (300 mL). The resultant solution was then washed with ice cold water (2×250 mL) and brine (100 mL), dried over magnesium sulfate, and concentrated to furnish a grayish powder (25 g, 78%). b) 2-Bromo-N-[4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-4,5-dimethoxy-benzenesulfonamide To a solution of 3-[2-(N,N-dimethylamino)ethoxy]-4-chloroaniline (1.9 g, 8.8 mmol) in dichloroethane (50 mL) was added 2-bromo-3,4-dimethoxybenzenesulfonyl chloride (2.8 g, 8.8 mmol). The resultant solution was maintained at ambient temperature for 3 days, then concentrated. Crystallization from ethanol gave the title compound (3.4 g, 72%). MS (ES+) m/e 493 [M+H]+ c) 4,5-Dimethoxy-biphenyl-2-sulfonic acid [4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-amide To a solution of 2-bromo-N-[4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-4,5-dimethoxy-benzenesulfonamide (50 mg, 0.1 mmol) in dimethoxyethane/water (25:3, 2 mL) was added phenylboronic acid (120 mg, 1.0 mmol), cesium carbonate (820 mg, 2.5 mmol), and tetrakispalladium triphenylphosphine (6 mg, 0.005 mmol). The resultant mixture was heated at 90° C. for 16 hours, at which time it was diluted with ethyl acetate (10 mL) and washed with 5% sodium hydroxide (2×10 mL) and brine (10 mL). The solution was then dried over magnesium sulfate and concentrated to give a yellow oil. Purification by HPLC (gradient; 10% acetonitrile/water to 90% acetonitrile/water) furnished the title compound (15 mg, 31%) as a white solid. MS (ES+) m/e 491 [M+H]+ Example 20 was prepared as outlined in Example 19, substituting the appropriate starting materials.

reactant | 2-Bromo-N-[4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-4,5-dimethoxy-benzenesulfonamide | BrC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)NC1=CC(=C(C=C1)Cl)OCCN(C)C | C18H22BrClN2O5S
reactant | 3-[2-(N,N-dimethylamino)ethoxy]-4-chloroaniline | 8.8 mmol, 1.9 g | CN(C)CCOC=1C=C(N)C=CC1Cl | C10H15ClN2O
reactant | 2-bromo-3,4-dimethoxybenzenesulfonyl chloride | 8.8 mmol, 2.8 g | BrC1=C(C=CC(=C1OC)OC)S(=O)(=O)Cl | C8H8BrClO4S
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 4,5-Dimethoxy-biphenyl-2-sulfonic acid [4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-amide | 3.4 g, 72% | ClC1=C(C=C(C=C1)NS(=O)(=O)C=1C(=CC(=C(C1)OC)OC)C1=CC=CC=C1)OCCN(C)C | C24H27ClN2O5S
